US08703953B2
To a stirred solution of (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate (1.6 g, 7.36 mmol) in dichloromethane (15 mL) was added triethyl amine (2.052 mL, 14.73 mmol) at 0° C. and the solution was stirred for 5 min. To this mixture at 0° C. was added methanesulfonyl chloride (0.574 mL, 7.36 mmol) dropwise and the reaction mixture was stirred at room temperature for 1 h. The reaction was quenched with water (15 mL) and extracted with DCM (2×15 mL). The combined organic layers were washed with brine (10 mL), dried over sodium sulphate, concentrated under reduced pressure to yield (S)-2-((tert-butoxycarbonyl)amino)-4-methylpentyl methanesulfonate (1.7 g, 5.75 mmol, 78% yield) as a yellow solid which was carried on without further purification. 1H NMR (400 MHz, CDCl3) δ 4.55 (m, 1 H), 4.25 (m, 1 H), 4.16 (m, 1 H), 3.92 (m, 1 H), 3.05 (s, 3 H), 1.66 (m, 2 H), 1.56 (m, 10 H), 0.92 (m, 6 H).

reactant | (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate | 7.36 mmol, 1.6 g | C(C)(C)(C)OC(N[C@H](CO)CC(C)C)=O | C11H23NO3
reactant | triethyl amine | 14.73 mmol, 2.052 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.36 mmol, 0.574 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (S)-2-((tert-butoxycarbonyl)amino)-4-methylpentyl methanesulfonate | 5.75 mmol, 1.7 g, 78% yield | CS(=O)(=O)OC[C@H](CC(C)C)NC(=O)OC(C)(C)C | C12H25NO5S
